US07635700B2
To a stirred solution of (4-fluoro-phenyl)-acetic acid (0.23 g, 1.5 mmol) in DMF (8 mL) in a 40° C. oil bath, was added 1.1′ carbonyldiimidazole (0.26 g, 1.6 mmol) and stirred for one hour. To the mixture, 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.49 g, 1.5 mmol) was added, and the mixture was stirred for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-2-(4-fluoro-phenyl)-acetamide as a white solid (480 mg, 76% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 5.83 min (99.2%); mp, decomposed at 290° C.; 1HNMR (DMSO-d6) 2.12-2.19 (m, 1H, CHH), 2.57-2.91 (m, 6H, CHCH2, CH3), 3.53 (s, 2H, ArCH2), 4.68-4.83 (m, 2H, CH2NH), 5.23 (dd, J=6, 11 Hz, 1H, CH), 7.09-7.72 (m, 7H, Ar), 8.36 (t, J=6 Hz, 1H, CH2NH), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.74, 23.28, 30.58, 41.36, 41.70, 56.48, 114.89 (d, JC-F=21 Hz), 117.69, 124.72, 125.58, 130.86 (d, JC-F=7 Hz), 132.45 (d, JC-F=3 Hz), 133.82, 140.68, 148.44, 154.80, 160.91, 161.00 (d, JC-F=242 Hz), 169.50, 170.15, 172.59. LCMS MH=437; Anal Calcd For C23H21N4O4F: C, 63.30; H, 4.85; N, 12.84; F, 4.35. Found: C, 63.25; H, 4.66; N, 12.73; F, 4.21.

reactant | (4-fluoro-phenyl)-acetic acid | 1.5 mmol, 0.23 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 1.1′ carbonyldiimidazole | 1.6 mmol, 0.26 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.5 mmol, 0.49 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-2-(4-fluoro-phenyl)-acetamide | 480 mg, 76% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)CNC(CC1=CC=C(C=C1)F)=O)C)=O | C23H21FN4O4
